US08404679B2
N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[1-(2-fluoro-allyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
To a solution of N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide (50 mg, 0.090 mmol) in THF (1 mL) was added under an atmosphere of nitrogen potassium bis(trimethylsilyl)amide (0.885 M in THF, 132 μL, 0.116 mmol). After stirring for 15 min at ambient temperature 3-chloro-2-fluoroprop-1-ene (13 mg, 0.13 mmol) was added and the reaction mixture was stirred for 20 h at this temperature. It was diluted with ethyl acetate (10 mL) and washed with an aqueous solution of sodium carbonate (1 M, 10 mL) and brine (10 mL). The aqueous layers were extracted with ethyl acetate (10 mL) and the combined organic layers dried over sodium sulfate. Purification by chromatography (SiO2, ethyl acetate:(ethyl acetate:triethylamine=95:5):methanol=100:0:0 to 0:90:10) afforded the title compound (26 mg, 47%) as a light brown foam. MS m/e: 616.4 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 0.090 mmol, 50 mg | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H28Cl2F3N3O3
reactant | 3-chloro-2-fluoroprop-1-ene | 0.13 mmol, 13 mg | ClCC(=C)F | C3H4ClF
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[1-(2-fluoro-allyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 26 mg, 47% | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCN(CC1)CC(=C)F)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C29H31Cl2F4N3O3
